US07655666B2
2-Acetylamino-5-(4,5-dihydro-furan-2-yl)-4-trifluoromethyl-benzoic acid methyl ester
To a solution of 2-acetylamino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester (10 g, 25.8 mmol) in dioxane were added tributyl-(4,5-dihydro-furan-2-yl)-stannane (13.9 g, 38.7 mmol), (Ph3P)4Pd then Et3N (4.52 mL, 32.3 mmol). The reaction mixture was heated at reflux for 18 h to give a brown suspension that was allowed to cool to r.t. The reaction mixture was filtered through a sintered funnel and the filtrate was concentrated under in vacuo. The residue was purified by flash column chromatography (silica gel, 1:4 EtOAc/hexanes) to give the title compound (7.3 g, 86%) as beige crystals, m.p.: 120-125° C., API-ES: m/z 330 [M+H]+

reactant | 2-acetylamino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester | 25.8 mmol, 10 g | COC(C1=C(C=C(C(=C1)I)C(F)(F)F)NC(C)=O)=O | C11H9F3INO3
reactant | tributyl-(4,5-dihydro-furan-2-yl)-stannane | 38.7 mmol, 13.9 g | C(CCC)[Sn](C=1OCCC1)(CCCC)CCCC
reactant | Et3N | 32.3 mmol, 4.52 mL | CCN(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | (Ph3P)4Pd | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Acetylamino-5-(4,5-dihydro-furan-2-yl)-4-trifluoromethyl-benzoic acid methyl ester | 7.3 g, 86% | COC(C1=C(C=C(C(=C1)C=1OCCC1)C(F)(F)F)NC(C)=O)=O | C15H14F3NO4
